US03941821
To a solution of 0.01 moles of ethyl 2'-bromo-4-biphenylylglycolate in 50 ml. of dimethylformamide is added 0.15 moles of trifluoromethyl iodide and 0.02 g. of copper powder. The reaction is shaken in a sealed tube for 5 hours at 140°C, cooled and then filtered and evaporated in vacuo. 200 ml. of water is added to the residue and extracted with ether. The ether extract is dried, evaporated to dryness and distilled to obtain ethyl 2'-trifluoromethyl-4-biphenylylglycolate.

reactant | ethyl 2'-bromo-4-biphenylylglycolate | 0.01 moles | BrC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)O | C16H15BrO3
reactant | trifluoromethyl iodide | 0.15 moles | FC(F)(F)I | CF3I
catalyst | copper | [Cu] | Cu
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 2'-trifluoromethyl-4-biphenylylglycolate | FC(C1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)O)(F)F | C17H15F3O3
